US08314138B2
Synthesis of 4-methyl-2-[1-(4-trifluoromethyl-benzyl)-1H-pyrazol-3-yl]-thiazole-5-carboxylic acid (pyridin-3-ylmethyl)amide
The title compound was prepared from 4-methyl-2-(2H-pyrazol-3-yl)-thiazole-5-carboxylic acid (pyridin-3-ylmethyl)-amide and bromomethyl-4-trifluoromethyl-benzene as described in Example 49 and isolated as yellow solid (0.075 g, 50% yield). 1H NMR (400 MHz, CDCl3) δ 8.61 (s, 1H), 8.56 (d, J=4 Hz, 2H), 7.70 (d, J=4 Hz, 1H), 7.61 (d, J=8 Hz, 2H), 7.44 (d, J=4 Hz, 1H), 7.26-7.36 (m, 3H), 6.88 (d, J=2 Hz, 1H), 6.13 (t, J=5 Hz, 1H), 5.41 (s, 2H), 4.63 (d, J=8 Hz, 2H), 2.75 (s, 3H); MS (M+H)+=458.1; Rt=1.35 min; HRMS (M+H)+=458.13.

reactant | 4-methyl-2-(2H-pyrazol-3-yl)-thiazole-5-carboxylic acid (pyridin-3-ylmethyl)-amide | N1=CC(=CC=C1)CNC(=O)C1=C(N=C(S1)C=1NN=CC1)C | C14H13N5OS
reactant | bromomethyl-4-trifluoromethyl-benzene | BrCC1=CC=C(C=C1)C(F)(F)F | C8H6BrF3
product | 4-methyl-2-[1-(4-trifluoromethyl-benzyl)-1H-pyrazol-3-yl]-thiazole-5-carboxylic acid (pyridin-3-ylmethyl)amide | N1=CC(=CC=C1)CNC(=O)C1=C(N=C(S1)C1=NN(C=C1)CC1=CC=C(C=C1)C(F)(F)F)C | C22H18F3N5OS
